US09193725B2
The 5-chloro-1-methyl-1,4-dihydropyridazino[3,4-d]pyrimidine (310 mg), phenyl boronic acid (208 mg) and potassium carbonate (235 mg) were dissolved in toluene (10 mL) and water (1.0 mL). The reaction mixture was degassed with nitrogen for 30 minutes and Pd(PPh3)4 (98 mg) was added. The reaction mixture was again degassed with nitrogen for 20 minutes and then heated to 100° C. for 1 hour in a sealed tube. The reaction mixture was filtered through a celite pad and washed with ethyl acetate (2×20 mL). The combined filtrate was washed with water (10 mL) and brine (10 mL). The organic layer was dried over anhydrous Na2SO4 and concentrated. The resulting crude product was purified by column chromatography using MeOH/CHCl3 (1.0:9.0) as eluent to afford 1-methyl-5-phenyl-1,4-dihydropyrimido[4,5-c]pyridazine (350 mg) as off white solid. 1H NMR (DMSO-d6): δ 3.41 (s, 3H), 3.52-3.53 (d, 2H), 6.86 (t, 1H), 7.47-7.49 (m, 3H), 7.56-7.60 (m, 2H), 8.66 (s, 1H).

reactant | 5-chloro-1-methyl-1,4-dihydropyridazino[3,4-d]pyrimidine | 310 mg | ClC1=C2C(=NC=N1)N(N=CC2)C | C7H7ClN4
reactant | phenyl boronic acid | 208 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 235 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 1.0 mL | O | H2O
product | 1-methyl-5-phenyl-1,4-dihydropyrimido[4,5-c]pyridazine | 350 mg | CN1N=CCC2=C1N=CN=C2C2=CC=CC=C2 | C13H12N4
